US07176242B2
A solution of 1-butyl-1,2,3,4-tetrahydroquinoline-7-carboxylic acid (134 mg, 0.57 mmol), HBTU (327 mg, 0.86 mmol), and diisopropylethylamine (150 μL, 0.86 mmol) was stirred in methylene chloride (3.0 mL) for 15 min. A solution of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (EXAMPLE SP-272) (234 mg, 0.57 mmol) and diisopropylethylamine (150 μL, 0.86 mmol) in methylene chloride (3.0 mL) was added and the reaction mixture was stirred overnight. The reaction mixture was diluted with methylene chloride, washed with 1 N hydrochloric acid (10 mL), saturated sodium bicarbonate (10 mL), and brine. The organic layer was then dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:9 methanol/chloroform) provided 1-butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1,2,3,4-tetrahydroquinoline-7-carboxamide (130 mg): ESI MS m/z 550 [M+H]+

reactant | 1-butyl-1,2,3,4-tetrahydroquinoline-7-carboxylic acid | 0.57 mmol, 134 mg | C(CCC)N1CCCC2=CC=C(C=C12)C(=O)O | C14H19NO2
reactant | HBTU | 0.86 mmol, 327 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.86 mmol, 150 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 0.57 mmol, 234 mg | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | diisopropylethylamine | 0.86 mmol, 150 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
product | 1-butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1,2,3,4-tetrahydroquinoline-7-carboxamide | 130 mg | C(CCC)N1CCCC2=CC=C(C=C12)C(=O)N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C33H41F2N3O2
